US06211234B1
A solution of tert-butyl (R)-4-(2-methylphenyl)-4-(2-nitro-5-(3-pyridylmethoxy)phenoxy)butanoate (800 mg) in methanol (20 mL) containing 5 N sodium hydroxide (10 mL) is stirred at ambient temperature for 48 hours. The reaction mixture is poured into water (50 mL), acidified to pH 5 with 1 N HCl and extracted three times with ethyl acetate (50 mL). The combined organic phases are washed with brine (50 mL), dried over magnesium sulphate, filtered and concentrated under reduced pressure The residual brown gum is purified by flash chromatography on silica eluting with ethyl acetate. Fractions homogeneous in the required product are combined and evaporated to give a yellow oil. Trituration with pentane afforded (R)-4-(2-methylphenyl)-4-(2-nitro-5-(3-pyridylmethoxy)phenoxy)butanoic acid as a white solid (150 mg), m.p. 117-119° C. [Elemental analysis:- C,65.4, H, 5.21, N, 6.64%. Calculated:- C,65.3, H, 5.17, N, 6.59%]

reactant | tert-butyl (R)-4-(2-methylphenyl)-4-(2-nitro-5-(3-pyridylmethoxy)phenoxy)butanoate | 800 mg | CC1=C(C=CC=C1)[C@@H](CCC(=O)OC(C)(C)C)OC1=C(C=CC(=C1)OCC=1C=NC=CC1)[N+](=O)[O-] | C27H30N2O6
reactant | sodium hydroxide | 5 N, 10 mL | [OH-].[Na+]
reactant | water | 50 mL | O | H2O
reactant | HCl | 1 N | Cl | ClH
solvent | methanol | 20 mL | CO | CH4O
solvent | pentane | CCCCC | C5H12
product | (R)-4-(2-methylphenyl)-4-(2-nitro-5-(3-pyridylmethoxy)phenoxy)butanoic acid | 150 mg | CC1=C(C=CC=C1)[C@@H](CCC(=O)O)OC1=C(C=CC(=C1)OCC=1C=NC=CC1)[N+](=O)[O-] | C23H22N2O6
